US09388173B2
Step 2: 1-((6-bromopyridin-2-yl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol
To a stirred mixture of 6-bromo-N-(oxiran-2-ylmethyl)pyridin-2-amine (1.33 g, 5.81 mmol) in EtOH (100 mL) was added 1,2,3,4-tetrahydroisoquinoline (773 mg, 5.81 mmol). The mixture was stirred at 80° C. for 16 hours. The reaction mixture was concentrated and the residue was purified column to afford the desired compound (140 mg). LCMS (m/z): 362.1/363.1 [M+H]+/[M+2H]+

reactant | 6-bromo-N-(oxiran-2-ylmethyl)pyridin-2-amine | 5.81 mmol, 1.33 g | BrC1=CC=CC(=N1)NCC1OC1 | C8H9BrN2O
reactant | 1,2,3,4-tetrahydroisoquinoline | 5.81 mmol, 773 mg | C1NCCC2=CC=CC=C12 | C9H11N
solvent | EtOH | 100 mL | CCO | C2H6O
product | 1-((6-bromopyridin-2-yl)amino)-3-(3,4-dihydroisoquinolin-2(1H)-yl)propan-2-ol | 140 mg | BrC1=CC=CC(=N1)NCC(CN1CC2=CC=CC=C2CC1)O | C17H20BrN3O
